** sch_path: /design/modules/module_1_bandgap_reference/part_1_OTA/testbenches/ota_testbench.sch
**.subckt ota_testbench vout vout1 vout2
*.iopin vout
*.iopin vout1
*.iopin vout2
V1 vp GND DC 0.6 AC 1 0
VDD vdd GND DC 1.2
I0 net1 GND 80u
Cload vout GND 500f
L6 vout vm 4G
C1 vm GND 4G
I1 net2 GND 80u
Cload1 vout1 GND 500f
I2 net3 GND 80u
L13 vout2 vm 4G
C2 vm GND 4G
V2 VDDac GND DC 1.2 AC 1 0
V4 net4 GND DC 0.6
x1 vdd net1 vp vm vout GND two_stage_OTA
x2 VDDac net3 net4 vm vout2 GND two_stage_OTA
x3 vdd net2 vp vp vout1 GND two_stage_OTA
**** begin user architecture code

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib cornerMOSlv.lib mos_tt



.control
op
save all
write tb_OTA_op.raw
.endc

.control
op
ac dec 100 1 10e6
save all
let Av = db(v(vout))
let PSRR_linear = v(vout2)/v(VDDac)
let CMRR = db((v(vout)/v(vp))/(v(vout1)/v(vp)))
let phase = 180*cph(vout)/pi
write output_file.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  two_stage_OTA.sym # of pins=6
** sym_path: /design/modules/module_1_bandgap_reference/part_1_OTA/schematic/two_stage_OTA.sym
** sch_path: /design/modules/module_1_bandgap_reference/part_1_OTA/schematic/two_stage_OTA.sch
.subckt two_stage_OTA vdd iout v+ v- vout vss
*.iopin v-
*.iopin v+
*.iopin vss
*.iopin vdd
*.iopin iout
*.iopin vout
XM4 vss net1 net3 vss sg13_lv_nmos w=720n l=9.75u ng=1 m=1 mm_ok=1
XM3 vss net1 net1 vss sg13_lv_nmos w=720n l=9.75u ng=1 m=1 mm_ok=1
XM1 net1 v- net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2 mm_ok=1
XM2 net3 v+ net2 vdd sg13_lv_pmos w=3.64u l=3.7u ng=1 m=2 mm_ok=1
XM5 net2 iout vdd vdd sg13_lv_pmos w=5.3u l=1.95u ng=1 m=1 mm_ok=1
XM7 vout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8 m=1 mm_ok=1
XM6 vss net3 vout vss sg13_lv_nmos w=28.8u l=9.75u ng=4 m=1 mm_ok=1
XM9 iout iout vdd vdd sg13_lv_pmos w=75u l=2.08u ng=8 m=1 mm_ok=1
XC2 net3 vout cap_cmim w=22.295e-6 l=22.295e-6 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
